US06900215B2
(2-Fluoro-5-nitrophenylethynyl)trimethylsilane (8.8 g, 37.1 mmol) and 1,4-dioxane were added to a solution of 1,2,4,5-tetrazine (35 ml, 18.6 mmol, 0.53 M in dichloromethane). The dichloromethane was distilled off and the dioxane solution was stirred at reflux for 36 hours. The solvent was removed to leave a brown oil. Purification by chromatography on silica gel eluting with dichloromethane, then with dichloromethane containing 1% methanol, gave 4-(2-fluoro-5-nitrophenyl)-5-trimethylsilanylpyridazine as a brown oil: m/z (ES+) 292 (M++H) and 249 (M+-3CH2).

reactant | (2-Fluoro-5-nitrophenylethynyl)trimethylsilane | 37.1 mmol, 8.8 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C#C[Si](C)(C)C | C11H12FNO2Si
reactant | 1,2,4,5-tetrazine | 18.6 mmol, 0.53 M, 35 ml | N1=NC=NN=C1 | C2H2N4
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-(2-fluoro-5-nitrophenyl)-5-trimethylsilanylpyridazine | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=CN=NC=C1[Si](C)(C)C | C13H14FN3O2Si
